US05280022
A mixture of tetraethyl 4-(2-pyridyloxy)butylaminomethylenebisphosphonate (0.85 g) and conc. hydrochloric acid (10 ml) was heated for 2 hours under reflux. The reaction mixture was concentrated under reduced pressure. The concentrate was treated with methanol to give a solid matter, which was recrystallized from water-methanol to give 4-(2-pyridyloxy)butylaminomethylenebisphosphonic acid hydrochloride hemihydrate (0.471 g, 65%), m.p. 155° C. to 157° C.

reactant | tetraethyl 4-(2-pyridyloxy)butylaminomethylenebisphosphonate | 0.85 g | N1=C(C=CC=C1)OCCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C18H34N2O7P2
reactant | hydrochloric acid | 10 ml | Cl | ClH
product | 4-(2-pyridyloxy)butylaminomethylenebisphosphonic acid hydrochloride hemihydrate | 0.471 g, 65% | O.Cl.N1=C(C=CC=C1)OCCCCNC(P(O)(O)=O)P(O)(O)=O.N1=C(C=CC=C1)OCCCCNC(P(O)(O)=O)P(O)(O)=O.Cl | InChI=1S/2C10H18N2O7P2.2ClH.H2O/c2*13-20(14,15)10(21(16,17)18)12-7-3-4-8-19-9-5-1-2-6-11-9;;;/h2*1-2,5-6,10,12H,3-4,7-8H2,(H2,13,14,15)(H2,16,17,18);2*1H;1H2
